US04267184
(b) 4,5-Bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole
To a stirred mixture of 1.5 g (5 m mole) of 4,5-bis(4-methoxyphenyl)pyrrole-2-carboxaldehyde and 1.3 g sodium carbonate in 10 ml ether/10 ml THF at -78° was added 0.8 g of trifluoromethanesulfenyl chloride. The mixture was allowed to warm to room temperature with a dry-ice condenser attached to keep the trifluoromethanesulfenyl chloride from escaping. Excess trifluoromethanesulfenyl chloride was added and the mixture was stirred overnight at room temperature. The mixture was filtered and the filtrate concentrated by rotary evaporation. The residue was purified by chromatography on 300 g Silic AR CC-7, eluting with toluene, to give 0.75 g (39%) of product, identical to that obtained by Method A.

reactant | 4,5-bis(4-methoxyphenyl)pyrrole-2-carboxaldehyde | 1.5 g | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)C=O | C19H17NO3
reactant | sodium carbonate | 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trifluoromethanesulfenyl chloride | 0.8 g | FC(SCl)(F)F | CClF3S
solvent | ether | 10 ml | CCOCC | C4H10O
product | 4,5-Bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole | 0.75 g, 39% | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)SC(F)(F)F | C19H16F3NO2S
